US07294644B2
5-(5-Chloro-2-fluoro-phenyl)-1-((S)-2,2-dimethyl-cyclopropylmethyl)-2-methyl-1H-pyrrole-3-carboxylic acid cyclohexylamide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(5-chloro-2-fluoro-phenyl)-ethanone as compound of formula S, C-(S)-(2,2-dimethyl-cyclopropyl)-methylamine (prepared from (S)-2,2-dimethyl-cyclopropanecarboxylic acid amide by reduction with LiAlH4 according to the procedure described by Saski et al. J. Org. Chem. 1971, 36, 1968-1971) as R3—(CH2)m—NH2 and cyclohexylamine as R1R2NH, MS (ISP) 417.3 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(5-chloro-2-fluoro-phenyl)-ethanone | BrCC(=O)C1=C(C=CC(=C1)Cl)F | C8H5BrClFO
reactant | (S)-2,2-dimethyl-cyclopropanecarboxylic acid amide | CC1([C@H](C1)C(=O)N)C | C6H11NO
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 5-(5-Chloro-2-fluoro-phenyl)-1-((S)-2,2-dimethyl-cyclopropylmethyl)-2-methyl-1H-pyrrole-3-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)Cl)F)C[C@@H]1C(C1)(C)C)C | C24H30ClFN2O
